US06689523B2
Compound (3) can be prepared according to the following procedure. Carbazole (16.7 g, 0.1 mol, commercially available from Aldrich, Milwaukee, Wis.), 1-bromopentane (15.1 g, 0.1 mol, commercially available from Aldrich, Milwaukee, Wis.), and benzyltriethyl ammonium chloride (1.7 g) are dissolved in tetrahydrofuran (60 mL) and a concentrated solution of sodium hydroxide (17 g) in water (17 mL) is added. The mixture is heated at reflux with strong mechanical stirring for 4 hours, then cooled to room temperature and poured into an excess of water. The solid that precipitated is filtered off and the tetrahydrofuran layer is dried by magnesium sulfate and concentrated to dryness. The combined organic solids were recrystallized to form 9-pentylcarbazole.

reactant | Carbazole | C1=CC=CC=2C3=CC=CC=C3NC12 | C12H9N
reactant | 1-bromopentane | BrCCCCC | C5H11Br
reactant | sodium hydroxide | 17 g | [OH-].[Na+]
catalyst | benzyltriethyl ammonium chloride | 1.7 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
solvent | water | 17 mL | O | H2O
product | 9-pentylcarbazole | C(CCCC)N1C2=CC=CC=C2C=2C=CC=CC12 | C17H19N
